US07612237B2
200 g of trans-3-n-propyloxiranecarboxylic acid potassium salt are suspended in 2 l of acetone, admixed with 120 g of triethylamine and cooled to 3° C. 146 g of pivaloyl chloride are then added, and the mixture is stirred at 20° C. for 20 minutes and then cooled to 3° C. To this are added 82 g of cyclopropylamine in 175 ml of acetone. After stirring for 20 min, the solution is drawn off in vacuo, and the residue is dissolved in 2 1 of toluene and 400 ml of water, and the pH is adjusted to 10. The aqueous phase is removed and the organic phase is admixed with 300 ml of water and the pH is adjusted to 2 with hydrochloric acid. The organic phase is removed and concentrated in vacuo. 175 g of N-cyclopropyl-trans-3-n-propyloxiranecarboxamide are obtained as a light brown oil.

reactant | trans-3-n-propyloxiranecarboxylic acid potassium salt | 200 g | [K+].C(CC)[C@H]1[C@@H](O1)C(=O)[O-]
reactant | triethylamine | 120 g | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 146 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | cyclopropylamine | 82 g | C1(CC1)N | C3H7N
solvent | acetone | 2 l | CC(=O)C | C3H6O
solvent | acetone | 175 ml | CC(=O)C | C3H6O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | 400 ml | O | H2O
product | N-cyclopropyl-trans-3-n-propyloxiranecarboxamide | 175 g | C1(CC1)NC(=O)[C@@H]1O[C@H]1CCC | C9H15NO2
